US04119710
1-(4'-Amino-3'-bromo-5'-cyano-phenyl)-2-cyclopropylamino-ethanol by method A
3 gm of sodium borohydride were added at room temperature to a solution of 7.5 gm of 4'-amino-3'-bromo-5'-cyano-2-cyclopropylamino-acetophenone in 200 ml of tetrahydro-furan and 100 ml of water, and the mixture was stirred for one hour. Thereafter, the excess sodium borohydride was destroyed by addition of acetone. The insoluble part of the mixture was filtered off, and the solvents were distilled out of the filtrate in vacuo. The residue was dissolved in hot isopropanol, and the hydrochloride of 1-(4'-amino-3'-bromo-5'-cyano-phenyl)-2-cyclopropylanino-ethanol was precipitated by addition of isopropanolic hydrochloric acid, and recrystallized from isopropanol. M.p. 190°-193° C. (decomp.).

reactant | sodium borohydride | 3 gm | [BH4-].[Na+]
reactant | 4'-amino-3'-bromo-5'-cyano-2-cyclopropylamino-acetophenone | 7.5 gm | NC1=C(C=C(C=C1C#N)C(CNC1CC1)=O)Br | C12H12BrN3O
solvent | tetrahydro-furan | 200 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 1-(4'-Amino-3'-bromo-5'-cyano-phenyl)-2-cyclopropylamino-ethanol | NC1=C(C=C(C=C1C#N)C(CNC1CC1)O)Br | C12H14BrN3O
